### PR TITLE
[Merged by Bors] - feat(Probability): lemmas about variance

### PR DESCRIPTION
**Pull request by RemyDegenne**
- `Var[fun ω ↦ X ω + c; μ] = Var[X; μ]`. Same for `c + X`, `-X`, `X - c` and `c - X`.
- The variance of a Dirac measure is 0
- `Var[X; μ.map Y] = Var[X ∘ Y; μ]`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Variance.lean [hunk 1]
```diff
@@ -199,6 +203,56 @@ theorem variance_def' [IsProbabilityMeasure μ] {X : Ω → ℝ} (hX : MemLp X 2
...
+    refine fun h_memLp ↦ hX_Lp ?_
+    have : X = fun ω ↦ X ω + c - c := by ext; ring
+    rw [this]
+    exact h_memLp.sub (memLp_const c)
+
+lemma variance_const_add [IsProbabilityMeasure μ] (hX : AEStronglyMeasurable X μ) (c : ℝ) :
+    Var[fun ω ↦ c + X ω; μ] = Var[X; μ] := by
+  simp_rw [add_comm c, variance_add_const hX c]
+
+lemma variance_neg : Var[fun ω ↦ -X ω; μ] = Var[X; μ] := by
```
Comment (sgouezel) [inline Mathlib/Probability/Variance.lean:223]: could you call this one `variance_fun_neg`, and have `variance_neg` say that `Var[-X; μ] = Var[X; μ]`?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
